US08124636B2
To a solution of methyl-4-fluorphenylacetate (10 g) in carbontetrachloride (80 mL) was added NBS (11.64 g) and AIBN (0.976 g) at RT. The reaction was then heated to reflux for 3 days. The reaction mixture was filtered and the solid washed with further carbontetrachloride. The filtrate was reduced in vacuo and the diluted with water (50 mL) and EtOAc (100 mL). The phases were separated and the aqueous phase was extracted with further EtOAc (100 mL). The combined organic phases were dried over sodium sulphate, filtered and evaporated in vacuo to afford the desired bromo-(4-fluoro-phenyl)-acetic acid methyl ester (15.0 g) as a yellow oil which was taken into the next step without further purification.

reactant | methyl-4-fluorphenylacetate | 10 g | COC(CC1=CC=C(C=C1)F)=O | C9H9FO2
reactant | NBS | 11.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbontetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.976 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | bromo-(4-fluoro-phenyl)-acetic acid methyl ester | 15.0 g | COC(C(C1=CC=C(C=C1)F)Br)=O | C9H8BrFO2
